US03970704
To a mixture of 10 g. of 7-methoxy-3,7-dimethyloctan-1-al, 17 g. of diethyl 3-ethoxycarbonyl-2-methylprop-2-enyl phosphonate (77% trans), and 150 ml. of dimethylformamide, under nitrogen, 0°, with stirring, is added sodium isopropanolate (prepared from 1.5 g. of sodium in 150 ml. of isopropanol). After addition is complete, the reaction is stirred for 18 hours at room temperature and then worked up by extraction with hexane to yield isopropyl 11-methoxy-3,7,11-trimethyldodeca-2,4-dienoate (mostly trans-2,trans-4), which can be chromatographed and distilled for further purification.

reactant | 7-methoxy-3,7-dimethyloctan-1-al | COC(CCCC(CC=O)C)(C)C | C11H22O2
reactant | sodium isopropanolate | 150 ml, 1.5 g | C(C)(C)[O-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | isopropyl 11-methoxy-3,7,11-trimethyldodeca-2,4-dienoate | COC(CCCC(CC=CC(=CC(=O)OC(C)C)C)C)(C)C | C19H34O3
